US06822100B2
2-(1-Benzenesulfonyl-5-cyano-1H-indazol-3-yl)-cyclopropanecarboxylic acid ethyl ester (1.12 g, 2.74 mmol) was dissolved in 30 mL anhydrous THF under N2 and cooled to −40° C. LAH (0.83 g, 22 mmol) was added portionwise over a 15 min. period. The reaction was stirred for 5 h at −40° C., then quenched with 50 mL ethyl acetate, followed by 10 mL water. After stirring at room temperature for 30 min, 50 mL saturated tartrate solution was added and stirred for 30 min. The precipitate was removed by filtration and washed with ethyl acetate. The precipitate was washed with more ethyl acetate, and the organic layer was washed with brine and dried over Na2SO4. Flash chromatography on silica gel using ethyl acetate/hexane (25-50%) as the eluent gave 3-(2-hydroxymethyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indazole-5-carbonitrile (580 mg, 58%). 1H NMR (500 MHz, CDCl3) 8.26 (1H, d, J=8.85 Hz), 8.08 (1H, s), 7.83 (2H, d, J=8.24 Hz), 7.74 (1H, dd, J=8.85, 1.22 Hz), 7.27 (2H, d, J=8.24 Hz), 3.78 (1H, dd, J=11.29, 6.10 Hz), 3.61 (1H, dd, 11.29, 6.71 Hz), 2.38 (3H, s), 2.10 (1H, p, J=4.88 Hz), 1.82 (1H, m), 1.39 (1H, dt, J=8.55, 4.88 Hz), 1.11 (1H, dt, J=8.55, 4.88 Hz). MS m/e 366.15 (M−H)−. Anal. calcd. for C19H17N3O3S: C, 62.11; H, 4.66; N, 11.43. Found: C, 62.16; H, 4.76; N, 11.19.

reactant | 2-(1-Benzenesulfonyl-5-cyano-1H-indazol-3-yl)-cyclopropanecarboxylic acid ethyl ester | 2.74 mmol, 1.12 g | C(C)OC(=O)C1C(C1)C1=NN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=CC=C1 | C20H17N3O4S
reactant | LAH | 22 mmol, 0.83 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(2-hydroxymethyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indazole-5-carbonitrile | 580 mg, 58% | OCC1C(C1)C1=NN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C19H17N3O3S
